US08193228B2
1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (590 mg, 0.72 mmol) was added to a degassed, ambient temperature solution of 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoropropan-2-ol (9.4 g, 14.4 mmol) and bis(pinacolato)diboron (4.0 g, 15.9 mmol) in dimethylsulfoxide (75 mL). After stirring at 90° C. for 90 min, the reaction mixture was poured into water and extracted with diethyl ether containing a small amount of ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-20% ethyl acetate/hexane afforded 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-2-ol.

reactant | 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoropropan-2-ol | 14.4 mmol, 9.4 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(CC=1N(C=C(N1)CC(C)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H34BrF3N2O
reactant | bis(pinacolato)diboron | 15.9 mmol, 4.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 75 mL | CS(=O)C | C2H6OS
product | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C42H46BF3N2O3
